US08084620B2
Step 1 A suspension of methyl 5-methoxy-2-methylbenzoate (1.00 g, 5.55 mmol), N-bromosuccinimide (1.037 g, 5.83 mmol) and benzoyl peroxide (81 mg, 0.333 mmol) in tetrachloromethane (10 mL) was heated at 77° C. for 3 h. The mixture was diluted with DCM, washed with NaHCO3 (aq), dried and concentrated to provide crude methyl 2-(bromomethyl)-5-methoxybenzoate as a light yellow solid (1.435 g), used without further purification. 1H NMR (400 MHz, chloroform-d) δ 7.48 (1H, d, J=2.64 Hz), 7.37 (1H, d, J=8.36 Hz), 7.02 (1H, dd, J=8.58, 2.86 Hz), 4.93 (2H, s), 3.95 (3H, s), 3.85 (3H, s).

reactant | methyl 5-methoxy-2-methylbenzoate | 5.55 mmol, 1.00 g | COC=1C=CC(=C(C(=O)OC)C1)C | C10H12O3
reactant | N-bromosuccinimide | 5.83 mmol, 1.037 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 10 mL | ClC(Cl)(Cl)Cl | CCl4
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | benzoyl peroxide | 0.333 mmol, 81 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 2-(bromomethyl)-5-methoxybenzoate | 1.435 g | BrCC1=C(C(=O)OC)C=C(C=C1)OC | C10H11BrO3
